US07645771B2
To a stirred solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole (51 mg, 0.12 mmol) in dichloro-methane (4 mL) was added 2,3-pyridinedicarboxylic anhydride (18 mg, 0.12 mmol) and triethylamine (17 μL, 0.12 mmol). The resulting mixture was stirred for 2 hours at ambient temperature before addition of ammonia (1 mL, 0.5 M in dioxane) and 47 mg of HATU. The reaction mixture was then stirred for another 2 hours. After being diluted with methylene chloride and washed with saturated sodium bicarbonate solution, the organic phase was dried over anhydrous sodium sulfate. Evaporation of the solvent and purification by flash chromatography afforded 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]nicotinamide as a foam (51 mg, 69%). 1H NMR (300 MHz, CDCl3) δ 8.63-8.61 (m, 1H), 8.17 (d, J=6.8 Hz, 1H), 7.66-7.64 (m, 2H), 7.38-7.33 (m, 3H), 7.30-7.22 (m, 4H), 7.20-7.10 (m, 2H), 5.79 (s, 1H), 4.61-4.55 (m, 1H), 4.27-4.22 (m, 1H), 3.40-3.08 (m, 5H), 2.54 (s, 3H), 2.47-2.33 (m, 3H), 2.19-2.15 (m, 1H), 1.97-1.80 (m, 10H), 1.63-1.61 (m, 2H). HRMS m/z (M+H)+ calcd: 577.3291, obsd: 577.3286.

reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole | 0.12 mmol, 51 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2 | C28H36N4
reactant | 2,3-pyridinedicarboxylic anhydride | 0.12 mmol, 18 mg | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 0.5 M, 1 mL | N | H3N
reactant | HATU | 47 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloro-methane | 4 mL | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]nicotinamide | 51 mg, 69% | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(=O)C3=C(C(=O)N)C=CC=N3)C3=CC=CC=C3)C=CC=C2 | C35H40N6O2
